US04377580
A mixture of 4-amino-6-nitroquinazoline (57.0 g) and diethyl ethoxymethylenepropanedioate (130 g) in anhydrous N,N-dimethylformamide (570 ml) was cooled at 5° C. To the reaction mixture was added sodium hydride (65.5% in mineral oil) (13.2 g) in the course of 30 minutes and the mixture was stirred for 1 hour and 40 minutes under ice-cooling. After ammonium chloride (47.2 g) was added to the reaction mixture and stirred for 20 minutes, ice-water (1 liter) was added to the resultant mixture with stirring and allowed to stand to give crystals, which were separated by filtration, washed with water and dried overnight at ambient temperature. The resultant crude crystals were dissolved in chloroform (1.5 liters) under heating. Insoluble materials were filtered off and the filtrate was concentrated under reduced pressure to give crystals, which were dissolved in methanol (300 ml) under heating and allowed to stand at ambient temperature. The resultant crystals were separated by filtration, washed with methanol and dried under reduced pressure to give yellowish crystalline diethyl [(6-nitro-4-quinazolinylamino)methylene]propanedioate (64.9 g).

reactant | 4-amino-6-nitroquinazoline | 57.0 g | NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H6N4O2
reactant | diethyl ethoxymethylenepropanedioate | 130 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium hydride | 13.2 g | [H-].[Na+]
reactant | ammonium chloride | 47.2 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 570 ml | CN(C=O)C | C3H7NO
solvent | methanol | 300 ml | CO | CH4O
product | diethyl [(6-nitro-4-quinazolinylamino)methylene]propanedioate | 64.9 g | [N+](=O)([O-])C=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C16H16N4O6
